US07351778B2
1) Preparation of butyl 9-hydroxyfluorene-9-carboxylate
To a reactor were added 0.05 mol of 9-hydroxyfluorene-9-carboxlic acid, 0.075 mol of butanol, 40 ml of toluene and 0.4 ml of concentrated sulfuric acid. The reaction was heated to reflux for 6 hrs, while water was separated by a water segregator. At the end of the reaction, the reaction mixture was neutralized with sodium bicarbonate, washed with saturated saline, extracted with ethyl acetate, and dried over anhydrous sodium sulfate. Removing the solvent gave the product with a yield of 80%.

reactant | 9-hydroxyfluorene-9-carboxlic acid | 0.05 mol | OC1(C2=CC=CC=C2C=2C=CC=CC12)C(=O)O | C14H10O3
reactant | butanol | 0.075 mol | C(CCC)O | C4H10O
reactant | sulfuric acid | 0.4 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | butyl 9-hydroxyfluorene-9-carboxylate | yield of 80% | OC1(C2=CC=CC=C2C=2C=CC=CC12)C(=O)OCCCC | C18H18O3
